US08138187B2
4-(2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butyl acetate hydrochloride, non-polar diastereomer
4-(2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butyl acetate (less polar diastereomer) (120 mg, 0.27 mmol) was dissolved in ethyl acetate (10 ml), and Me3SiCl (68 μl, 0.54 mmol) was added dropwise at RT and the mixture was stirred for 1 h. A white precipitate precipitated out. The precipitate was filtered off with suction, washed with ethyl acetate (2×5 ml) and then dried. Example 174 (117 mg, m.p. 187-191° C., 90%) was obtained as a white solid

reactant | 4-(2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butyl acetate | C(C)(=O)OCCCCC1=C(NC2=CC=CC=C12)C1CCC(CC1)(N(C)C)CC1=CC=CC=C1 | C29H38N2O2
reactant | Me3SiCl | 0.54 mmol, 68 μl | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butyl acetate hydrochloride | Cl.C(C)(=O)OCCCCC1=C(NC2=CC=CC=C12)C1CCC(CC1)(N(C)C)CC1=CC=CC=C1 | InChI=1S/C29H38N2O2.ClH/c1-22(32)33-20-10-9-14-26-25-13-7-8-15-27(25)30-28(26)24-16-18-29(19-17-24,31(2)3)21-23-11-5-4-6-12-23;/h4-8,11-13,15,24,30H,9-10,14,16-21H2,1-3H3;1H
